US07662809B2
Step 3: Methyl 13-cyclohexyl-7H-indolo[2,1-a]2benzazepine-10-carboxylate
Crude methyl 1-allyl-3-cyclohexyl-2-(2-vinylphenyl)1H-indole-6-carboxylate was dissolved in DCM (0.02M) and treated with Zhan catalyst I (0.3 eq) at 35° C. for 1 h. NEt3 (7 eq) were added and the solvent was removed in vacuo. The residue was purified by chromatography (PE/EtOAc 95:5) to afford the title compound (84%); MS (ES+) m/z 372 (M+H)+.

reactant | methyl 1-allyl-3-cyclohexyl-2-(2-vinylphenyl)1H-indole-6-carboxylate | C(C=C)N1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=C(C=CC=C1)C=C | C27H29NO2
reactant | NEt3 | 7 eq | CCN(CC)CC | C6H15N
solvent | DCM | 0.02M | C(Cl)Cl | CH2Cl2
product | Methyl 13-cyclohexyl-7H-indolo[2,1-a]2benzazepine-10-carboxylate | 84% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=CC2)C=CC=C1)C(=O)OC | C25H25NO2
